US04599357
To the stirred mixture of 4.0 g of 5-methoxyindoline-2-carboxylic acid ethyl ester, 5.0 g of powdered potassium carbonate and 50 ml of methylene chloride, 3.3 g of 3-acetylthio-2-methylpropanoyl chloride in 10 ml of methylene chloride are added during 1 minute. After stirring for 2 hours at reflux the mixture is cooled to room temperature and partitioned between 50 ml of water and 100 ml of diethyl ether. The organic layer is washed with 50 ml of water, 50 ml of 1N hydrochloric acid and 50 ml of saturated aqueous sodium chloride, dried and evaporated, to give the 1-(3-acetylthio-2-methylpropanoyl)-5-methoxyindoline-2-carboxylic acid ethyl ester as an oil.

reactant | 5-methoxyindoline-2-carboxylic acid ethyl ester | 4.0 g | C(C)OC(=O)C1NC2=CC=C(C=C2C1)OC | C12H15NO3
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-acetylthio-2-methylpropanoyl chloride | 3.3 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-acetylthio-2-methylpropanoyl)-5-methoxyindoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=C(C=C2C1)OC)C(C(CSC(C)=O)C)=O | C18H23NO5S
